US08445505B2
To a solution of N2-(4-bromo-2,5-dimethylphenyl)-5-chloro-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (280 mg, 0.69 mmol) in THF (3 mL) was added p-TSA (119 mg, 0.69 mmol) and 3,4-dihydro-2H-pyran (348 mg, 2.86 mmol). The mixture was stirred at room temperature for 14 h and then poured into saturated aqueous NaHCO3 solution (10 mL). The resulting mixture was extracted with EtOAc (3×10 mL) and the combined organic layers were concentrated. The resulting residue was purified by flash column chromatography (silica gel, 0-50% EtOAc in hexanes gradient) to provide N2-(4-bromo-2,5-dimethylphenyl)-5-chloro-N4-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as a white solid; ESMS m/z 491.1 (M+H+).

reactant | N2-(4-bromo-2,5-dimethylphenyl)-5-chloro-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.69 mmol, 280 mg | BrC1=CC(=C(C=C1C)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl)C | C16H16BrClN6
reactant | p-TSA | 0.69 mmol, 119 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | 2.86 mmol, 348 mg | O1CCCC=C1 | C5H8O
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N2-(4-bromo-2,5-dimethylphenyl)-5-chloro-N4-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | BrC1=CC(=C(C=C1C)NC1=NC=C(C(=N1)NC1=NN(C(=C1)C)C1OCCCC1)Cl)C | C21H24BrClN6O
